US04143055
N-(2,3-dihydro-6-methoxy-2-methyl-4-benzofuranyl)urea
2.5 grams of 2,3-dihydro-6-methoxy-2-methyl-4-benzofuranamine are dissolved in 16 cc of 0.1N HCl and upon gradual addition of 1.1 gram of sodium cyanate to the resulting solution a white crystalline solid precipitates. The reaction mixture is then heated in a water-bath and, after 90 minutes, cooled and filtered. By recrystallizing the obtained precipitate from ethyl alcohol 1.9 gram (61 percent of theoretical) of the desired product is obtained. M.p. 204°-06° C.

reactant | 2,3-dihydro-6-methoxy-2-methyl-4-benzofuranamine | 2.5 grams | COC=1C=C2C(CC(O2)C)=C(C1)N | C10H13NO2
reactant | sodium cyanate | 1.1 gram | [O-]C#N.[Na+]
solvent | HCl | 0.1N, 16 cc | Cl | ClH
product | N-(2,3-dihydro-6-methoxy-2-methyl-4-benzofuranyl)urea | COC1=CC2=C(CC(O2)C)C(=C1)NC(=O)N | C11H14N2O3
